US06239131B1
Preparation of 1-tert-butoxycarbonylmethyl-2-oxo-3-benzyloxycarbonylamino-5-cyclohexylcarbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Under ice-cooling, 2-oxo-3-benzyloxycarbonylamino-5-cyclohexylcarbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (800 mg) was added to a suspension of 60% sodium hydride (152 mg) in tetrahydrofuran (50 ml), the mixture was stirred at room temperature for one hour. Subsequently, tert-butyl bromoacetate (390 mg) was added and stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure, Water was added to the residue and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous sodiun sulfate, and the mixture was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 640 mg of the title compound (Yield: 63%).

reactant | 2-oxo-3-benzyloxycarbonylamino-5-cyclohexylcarbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 800 mg | O=C1C(CN(C2=C(N1)C=CC=C2)C(=O)C2CCCCC2)NC(=O)OCC2=CC=CC=C2 | C24H27N3O4
reactant | sodium hydride | 152 mg | [H-].[Na+]
reactant | tert-butyl bromoacetate | 390 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-tert-butoxycarbonylmethyl-2-oxo-3-benzyloxycarbonylamino-5-cyclohexylcarbonyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 640 mg, Yield: 63% | C(C)(C)(C)OC(=O)CN1C(C(CN(C2=C1C=CC=C2)C(=O)C2CCCCC2)NC(=O)OCC2=CC=CC=C2)=O | C30H37N3O6
